US04492711
A solution of 2.3 g of methyl isocyanate in 10 ml of absolute ethanol is added dropwise to a solution of 6 g of 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide in 50 ml of absolute ethanol. Then the mixture is left to stand 30 minutes at room temperature and afterwards it is heated at 50° C. for 2 hours. The solvent is evaporated under reduced pressure, the residue is taken up with diluted hydrochloric acid, the aqueous solution is extracted twice with 100 ml of ethyl acetate and treated with concentrated sodium hydroxide to clearly basic pH. The mixture is extracted three times with 100 ml of ethyl acetate, the organic phase is washed with water, dried on anhydrous sodium sulfate and evaporated to dryness. Thus, the 3-(3-methylureido)-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide is obtained as an oil which is dissolved in isopropanol and treated with a solution of 1.5 g of oxalic acid in isopropanol. A white solid is obtained which, after crystallization from 95% ethanol gives 4.5 g of 3-(3-methylureido)-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide oxalate; m.p. 156°-158° C. Code number: SR 57934A.

reactant | methyl isocyanate | 2.3 g | CN=C=O | C2H3NO
reactant | 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 6 g | NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C17H23N3O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(3-methylureido)-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | CNC(NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1)=O | C19H26N4O3S
